US08211908B2
To a solution of 1.0 g of (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-hydroxypyridin-2-yl)methyl acetate in 15 mL of dichloromethane, 0.86 mL of triethylamine and 0.78 mL of trifluoromethanesulfonic anhydride were added under cooling with ice, and the mixture was stirred for 30 minutes. Thereto were added a saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was separated and washed with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=66:34 to 50:50 to obtain 1.3 g of (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate as a colorless oily substance.

reactant | (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-hydroxypyridin-2-yl)methyl acetate | 1.0 g | C(C)(=O)OCC1=NC=C(C(=C1)OCCNC(=O)OC(C)(C)C)O | C15H22N2O6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
reactant | trifluoromethanesulfonic anhydride | 0.78 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.86 mL | C(C)N(CC)CC | C6H15N
product | (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate | 1.3 g | C(C)(=O)OCC1=NC=C(C(=C1)OCCNC(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C16H21F3N2O8S
